US08097610B2
Preparation of [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid
A mixture of [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid methyl ester (152 mg), 2N aqueous sodium hydroxide (0.45 mL), tetrahydrofuran (1 mL) and methanol (1 mL) was stirred at room temperature for 2 hours. The reaction solution was neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (53 mg). Yield: 36%.

reactant | [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid methyl ester | 152 mg | COC(CC1=CC(=C(C=C1)Cl)OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)CC)=O | C25H28Cl2N2O3S
reactant | sodium hydroxide | 2N, 0.45 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid | 53 mg, Yield: 36% | ClC1=C(C=C(C=C1)CC(=O)O)OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)CC | C24H26Cl2N2O3S
